US04369312
2,2,2-Trichloroethyl 7-amino-3-methyl-3-cephem-4-carboxylate, trifluoromethanesulfonic anhydride, triethylamine and hydrochloric acid were reacted in the same manners as those of Examples 1-4 to give 2,2,2-trichloroethyl 7-oxo-3-methyl-3-cephem-4-carboxylate.

reactant | 2,2,2-Trichloroethyl 7-amino-3-methyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C10H11Cl3N2O3S
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,2,2-trichloroethyl 7-oxo-3-methyl-3-cephem-4-carboxylate | O=C1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C10H8Cl3NO4S
